* Z:\celera\projects\Simplis\playcalum\Caprice\caprice0\300\verification\sim_CAPRICE.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SNS 24
.node_map BIAS 28
.node_map PGND 25
.node_map VCC 27
.node_map DRN 29
.node_map GATE 30
.node_map GND 26
.options
+ PSP_NPT=50001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 2m 0
.globalvar TEMP=25

*celera
.globalvar VIN = 5.0
.globalvar REF = 1.0
.globalvar tdext_khz=10

*Externals
.globalvar Cvcc=0.1u
.globalvar Cvcc_initial=0
.globalvar Cbias=1u
.globalvar Cbias_initial=0
.globalvar Rdrn_pullup=100K

*Force
.globalvar Fsns=10k
.globalvar Tsns_start=200u
.globalvar SNSinitial=6
.globalvar SNSpulse=6

.globalvar Tsnsdc0=10u
.globalvar SNSdc0=12
.globalvar SNSdc1=12

.globalvar ENABLEsnsDC 5
.globalvar ENABLEsnsAC 0

X$CAPRICE 27 24 28 29 30 26 25 CAPRICE0


.PRINT V(#SNS)
.GRAPH :#SNS curveLabel= SNS nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#BIAS)
.GRAPH :#BIAS curveLabel= BIAS nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe10  
.PRINT V(#DRN)
.GRAPH :#DRN curveLabel= DRN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe11  
.PRINT V(#GATE)
.GRAPH :#GATE curveLabel= GATE nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe12  
.PRINT V(#PGND)
.GRAPH :#PGND curveLabel= PGND nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(#GND)
.GRAPH :#GND curveLabel= GND nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe8  
.PRINT V(#VCC)
.GRAPH :#VCC curveLabel= VCC nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe9  
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playcalum\Caprice\caprice0\300\design\CAPRICE0.sxcmp
.ends CAPRICEforce

.end
